US07691882B2
(6-Benzyl-pyridin-3-yl)-acetohydroximoyl chloride
To 2-benzyl-5-(2-nitro-ethyl)-pyridine (260 mg, 1.1 mmol) described in Manufacturing Example 210-1-6 and methanol (5 mL) was added lithium methoxide (81 mg, 2.1 mmol), which was concentrated under a reduced pressure. Titanium (IV) tetrachloride (0.38 mL, 3.4 mmol) was added dropwise at −76° C. to a suspension of the residue in methylene chloride (5 mL) and tetrahydrofuran (2.5 mL), which was stirred for 20 minutes at room temperature. This reaction solution was added to ice water and extracted with ethyl acetate. The aqueous layer was extracted with ethyl acetate again (four times). The organic layers were combined, washed with aqueous sodium chloride (one time), dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and tetrahydrofuran was added to the residue. The insolubles thus produced were filtered out. The filtrate was concentrated under a reduced pressure to obtain the title compound (180 mg, 63%).

reactant | 2-benzyl-5-(2-nitro-ethyl)-pyridine | 1.1 mmol, 260 mg | C(C1=CC=CC=C1)C1=NC=C(C=C1)CC[N+](=O)[O-] | C14H14N2O2
reactant | methanol | 5 mL | CO | CH4O
reactant | lithium methoxide | 2.1 mmol, 81 mg | C[O-].[Li+]
reactant | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
catalyst | Titanium (IV) tetrachloride | 3.4 mmol, 0.38 mL | [Ti](Cl)(Cl)(Cl)Cl
product | (6-Benzyl-pyridin-3-yl)-acetohydroximoyl chloride | 180 mg, 63% | C(C1=CC=CC=C1)C1=CC=C(C=N1)CC(=NO)Cl | C14H13ClN2O
